US07964219B2
Preparation of Implants Containing Tetracaine Phytate
The film thus obtained is melted and compression molded at 80° C. to give a film about 0.5 mm thick. The film is incubated in phosphate buffered saline (containing 0.02% sodium azide) at pH 7.4 and 37° C., and the buffer solution is assayed periodically by UV to determine the amount of tetracaine released.

reactant | tetracaine | CCCCNC=1C=CC(=CC1)C(=O)OCCN(C)C | C15H24N2O2
reactant | phosphate buffered saline | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
product | Tetracaine Phytate | CCCCNC=1C=CC(=CC1)C(=O)OCCN(C)C.C1(C(C(C(C(C1OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O | InChI=1S/C15H24N2O2.C6H18O24P6/c1-4-5-10-16-14-8-6-13(7-9-14)15(18)19-12-11-17(2)3;7-31(8,9)25-1-2(26-32(10,11)12)4(28-34(16,17)18)6(30-36(22,23)24)5(29-35(19,20)21)3(1)27-33(13,14)15/h6-9,16H,4-5,10-12H2,1-3H3;1-6H,(H2,7,8,9)(H2,10,11,12)(H2,13,14,15)(H2,16,17,18)(H2,19,20,21)(H2,22,23,24)
